US07612075B2
E. 2-(2-Oxopiperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester.
Palladium black (1.1 g, 10.3 mmol) is added to a solution of 2-(4-benzyloxycarbonyl-2-oxo-piperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester (1.7 g, 3.7 mmol) in HCO2H/MeOH (45 mL, 4.4% solution). After 40 minutes the catalyst is filtered through Celite and washed with MeOH. The filtrate is concentrated in vacuo to remove methanol then the resulting solution is diluted with methylene chloride and washed with saturated sodium bicarbonate, and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The resulting solid is purified by column chromatography eluting with a gradient of 5% MeOH/CH2Cl2 to 10% MeOH/CH2Cl2 to give the product (0.8 g, 2.5 mmol) as a pale yellow foamy solid. 1H NMR (CDCl3, 300 MHz) δ8.78 (s, 1H), 8.40 (d, 1H), 7.9 (d, 1H), 6.48 (s, 1H), 4.98 (s, 2H), 3.7 (s, 2H), 3.51 (t, 2H), 3.40 (t, 2H), 1.91 (bs, 1H), 1.70 (s, 9H).

reactant | 2-(4-benzyloxycarbonyl-2-oxo-piperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester | 3.7 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)C(=O)OCC2=CC=CC=C2)=O | C25H28N4O5
solvent | HCO2H MeOH | 45 mL | C(=O)O.CO
catalyst | Palladium black | 10.3 mmol, 1.1 g | [Pd] | Pd
product | 2-(2-Oxopiperazin-1-ylmethyl)pyrrolo[3,2-c]pyridin-1-carboxylic acid tert-butyl ester | 2.5 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CNCC2)=O | C17H22N4O3
